US07262185B2
4-chloropyridine-N-oxide (4.4 g) was dissolved in methylene chloride (68 ml), trimethyloxonium tetrafluoroborate (5.0 g) was added to the mixture, and the mixture was stirred for 90 minutes at room temperature. The solvent was removed under reduced pressure, the obtained residue was dissolved in methanol, and an aqueous solution (6.8 ml) of ammonium peroxodisulfate (1.54 g) was added thereto under heat reflux. An aqueous solution (3.4 ml) of ammonium peroxodisulfate (0.77 g) was further added to the mixture after 30 minutes, the mixture was stirred for 1 hour. After allowing the mixture to be cooled to room temperature, the solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give (4-chloro-2-pyridinyl)methanol (3.0 g).

reactant | 4-chloropyridine-N-oxide | 4.4 g | ClC1=CC=[N+](C=C1)[O-] | C5H4ClNO
reactant | trimethyloxonium tetrafluoroborate | 5.0 g | F[B-](F)(F)F.C[O+](C)C
solvent | methylene chloride | 68 ml | C(Cl)Cl | CH2Cl2
product | (4-chloro-2-pyridinyl)methanol | 3.0 g | ClC1=CC(=NC=C1)CO | C6H6ClNO
